* Wedgetail TCDE REV01

* References used:
* https://github.com/lip6/alliance-check-toolkit/blob/fea496a7fd83f4bd02d3c1d86cf4c42cfba63b9a/benchs/inverter/gf180mcu/test.spice
* https://foss-eda-tools.googlesource.com/globalfoundries-pdk/libs/gf180mcu_fd_pr/+/23aa2fe36f589a57cdf76cb8eabadc9a45af8a1a/models/ngspice/design.ngspice
* https://github.com/TinyTapeout/tt05-ringosc-counter/blob/main/spice/osc.spice

* load the necessary IHP130 design setup stuff
.lib /home/matt/.ciel/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/matt/.ciel/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.include /home/matt/.ciel/ihp-sg13g2/libs.tech/ngspice/models/sg13g2_moslv_mod.lib

* load our design
* yes parasitics:
.include ./runs/tt_um_mlyoung_wedgetail__tt_um_mlyoung_wedgetail/magic_CC/tt_um_mlyoung_wedgetail.pex.spice
* no parasitics:
*.include ./runs/ihp130/final/spice_rcx/wedgetail_top.rcx.spice

* instantiate the circuit
Xdut VGND VPWR clk ena rst_n ui_in[0] ui_in[1] ui_in[2]
+ ui_in[3] ui_in[4] ui_in[5] ui_in[6] ui_in[7] uio_in[0] uio_in[1] uio_in[2] uio_in[3]
+ uio_in[4] uio_in[5] uio_in[6] uio_in[7] uio_oe[0] uio_oe[1] uio_oe[2] uio_oe[3]
+ uio_oe[4] uio_oe[5] uio_oe[6] uio_oe[7] uio_out[0] uio_out[1] uio_out[2] uio_out[3]
+ uio_out[4] uio_out[5] uio_out[6] uio_out[7] uo_out[0] uo_out[1] uo_out[2] uo_out[3]
+ uo_out[4] uo_out[5] uo_out[6] uo_out[7]
+ tt_um_mlyoung_wedgetail

* set gnd and power
Vgnd VGND 0 0
Vdd VPWR VGND 1.8

* tie all of these to ground
Vin0 ui_in[0] VGND 0
Vin1 ui_in[1] VGND 0
Vin2 ui_in[2] VGND 0
Vin3 ui_in[3] VGND 0
Vin4 ui_in[4] VGND 0
Vin5 ui_in[5] VGND 0
Vin6 ui_in[6] VGND 0
Vin7 ui_in[7] VGND 0
* FIXME this should be set high but it blows it up
*Vin8 ena VGND 1.8

.param temp=24
.param TEMP=24
.options savecurrents

* setup the transient analysis
* TODO: do we want UIC? it makes the input pins weird
.tran 100p 50n uic

* increase iteration limit to make the simulation converge
*.options itl1=10000

.control
run

* save data
write spice/data.spiceraw
+ "uo_out[0]" "uo_out[1]" "uo_out[2]" "uo_out[3]" "uo_out[4]" "uo_out[5]" "uo_out[6]" "uo_out[7]"
+ "ui_in[0]" "ui_in[1]" "ui_in[2]" "ui_in[3]" "ui_in[4]" "ui_in[5]" "ui_in[6]" "ui_in[7]" "clk" "ena" "rst_n"

plot "uo_out[0]" "uo_out[1]" "uo_out[2]" "uo_out[3]" "uo_out[4]" "uo_out[5]" "uo_out[6]" "uo_out[7]"

plot "ui_in[0]" "ui_in[1]" "ui_in[2]" "ui_in[3]" "ui_in[4]" "ui_in[5]" "ui_in[6]" "ui_in[7]" "ena"

** FFT
*linearize v(o_ro_1)
*set specwindow=blackmanharris
*fft v(o_ro_1)
*
** ylimit: exclude noise lobes introduced by blackmann-harris window (thanks Ling!)
** xlimit: exclude what I think is extra spectral noise?
*plot ylimit -100 50 xlimit 0 1e10 db(v(o_ro_1))

.endc

.save all
